US05445762
1-(Tert.-butylcarbonyl)-1-aza-4,7,10-trioxacyclododecane
3.81 mmol of 1-aza-4,7,10-trioxacyclododecane are dissolved in 50 ml of CH2Cl2. 0.6 ml of triethylamine are added and 0.1 g of DMAP (=4-dimethylaminopyridine) is added as catalyst 3.82 mmol of pivalyl chloride are subsequently added, and the mixture is stirred at room temperature for 18 hours.

reactant | 1-aza-4,7,10-trioxacyclododecane | 3.81 mmol | N1CCOCCOCCOCC1 | C8H17NO3
reactant | triethylamine | 0.6 ml | C(C)N(CC)CC | C6H15N
reactant | pivalyl chloride | 3.82 mmol | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.1 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 1-(Tert.-butylcarbonyl)-1-aza-4,7,10-trioxacyclododecane | C(C)(C)(C)C(=O)N1CCOCCOCCOCC1 | C13H25NO4
